US07067540B2
3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-(2-methyl-4-vinylphenyl)pyridin-2(1H)-one
The title compound was prepared by reacting 4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-(2-methyl-4-vinylphenyl)pyridin-2(1H)-one (0.64 g, 1.74 mmol) with N-bromosuccinamide (0.325 g, 1.83 mmol) in acetonitrile (9 mL) at 0° C. using a similar procedure as described in step 3 of Example 465, to give 0.423 g (54.5% after recrystallization) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 7.67 (app q, J=7.59 Hz, 1H), 7.48 (s, 1H), 7.42 (dd, J=8.21, 1.98 Hz, 1H), 7.33 (dt, J=10.00, 2.27 Hz, 1H), 7.17 (dt, J=8.51, 2.44 Hz, 1H), 7.13 (d, J=7.88 Hz, 1H), 6.74 (dd, J=11.29, 6.34 Hz, 1H), 6.67 (s, 1H), 5.88 (d, J=17.85, 1H), 5.32-5.30 (m, 2H), 1.92 (s, 3H), 1.88 (s, 3H). ES-HRMS m/z 446.0579 (M+H calcd for C22H19BrF2NO2, requires 446.0568).

reactant | 4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-(2-methyl-4-vinylphenyl)pyridin-2(1H)-one | 1.74 mmol, 0.64 g | FC1=C(COC2=CC(N(C(=C2)C)C2=C(C=C(C=C2)C=C)C)=O)C=CC(=C1)F | C22H19F2NO2
reactant | N-bromosuccinamide | 1.83 mmol, 0.325 g | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
product | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-(2-methyl-4-vinylphenyl)pyridin-2(1H)-one | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C1=C(C=C(C=C1)C=C)C)=O | C22H18BrF2NO2
